US08486979B2
3-(Pyridin-3-yl)-5-(pyrimidin-5-yl)-1,2,4-oxadiazole
The titled compound was prepared according to the procedure of Method C using N′-hydroxynicotinimidamide (Tyger) and pyrimidine-5-carboxylic acid (Maybridge). 1H NMR (300 MHz, DMSO-d6) δ 7.68 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 8.48 (dt, J=7.7, 2.1 Hz, 1 H), 8.84 (dd, J=4.7, 1.7 Hz, 1 H), 9.29 (dd, J=2.4, 1.0 Hz, 1 H), 9.51 (s, 1 H), 9.56 (s, 2 H) ppm; MS (DCI/NH3) m/z=226 (M+H)+, 243 (M+NH4)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | pyrimidine-5-carboxylic acid | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | NH3 | N | H3N
product | 3-(Pyridin-3-yl)-5-(pyrimidin-5-yl)-1,2,4-oxadiazole | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=NC=NC1 | C11H7N5O
